US07622583B2
4-Chloro-N-[5-chloro-2-(2-fluoro-phenoxy)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide
A solution of 5-chloro-2-(2-fluoro-phenoxy)-pyridin-3-ylamine (75 mg, 0.31 mmol), 4-chloro-3-trifluoromethyl-benzenesulfonyl chloride (103 mg, 0.36 mmol), DMAP (20 mg, 0.16 mmol) in anhydrous pyridine (1 mL) was stirred at room temperature for 2 days. The reaction product was separated by preparative HPLC using acetonitrile-water solvent mixture and pure product fractions were lyophilized to provide pure product as a solid. 1H NMR (400 MHz, CDCl3) δ 8.16 (s, 1 H), 7.96 (s, 1 H), 7.89 (d, J=8.0 Hz, 1 H), 7.79 (s, 1 H), 7.62 (d, J=8.0 Hz, 1 H), 7.15-7.13 (m, 3 H), 7.00-6.96 (m, 1 H). MS m/z: 481.0 (M+H).

reactant | 5-chloro-2-(2-fluoro-phenoxy)-pyridin-3-ylamine | 0.31 mmol, 75 mg | ClC=1C=C(C(=NC1)OC1=C(C=CC=C1)F)N | C11H8ClFN2O
reactant | 4-chloro-3-trifluoromethyl-benzenesulfonyl chloride | 0.36 mmol, 103 mg | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C7H3Cl2F3O2S
catalyst | DMAP | 0.16 mmol, 20 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | 4-Chloro-N-[5-chloro-2-(2-fluoro-phenoxy)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)OC1=C(C=CC=C1)F)C(F)(F)F | C18H10Cl2F4N2O3S
